US05677464
1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (2.2 g) was dissolved in 40 ml of dimethylformamide, to which 1.39 g of 1H-1,2,4-triazole and 5.55 g of potassium carbonate were added. The mixture was heated at 80° C. for 4 hours. The reaction solution was diluted with a mixture of 150 ml of ethyl acetate and 50 ml of diisopropyl ether, and washed with water (40 ml×2), 1N-hydrochloric acid (40 ml×2) and 20 ml of aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (silica gel: 50 g, eluent; hexane:ethyl acetate=1:1 to 1:2). The desired fraction was concentrated and the residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 1.59 g of 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (yield: 75%) as colorless powdery crystals.

reactant | 1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 2.2 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(COS(=O)(=O)C)O | C23H23F5N2O6S
reactant | 1H-1,2,4-triazole | 1.39 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 5.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 1.59 g, yield: 75% | FC1=C(C=CC=C1)[C@@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(CN1N=CN=C1)O | C24H22F5N5O3
